US06489344B1
A mixture of 2,6-dichloro-3-nitropyridine (1.9 g, 10 mmole) and potassium carbonate (1.66 g, 12 mmole) in 30 ml of tetrahydrofuran was stirred at 0° C. for 5 min. A solution of dimethylamine/tetrahydrofuran (2M, 6ml, 12 mmole) was added dropwise to the reaction mixture over 40 min. After stirring for 5 min at 0° C., the mixture was warmed to room temperature and stirred overnight. The reaction mixture was filtered and the filtrate was collected and concentrated under reduced pressure. The crude product was purified by flash chromatography, eluting with 87% hexane: 13% ethyl acetate to give 6-chloro-2-dimethylamino-3-nitro pyridine (1.05 g).

reactant | 2,6-dichloro-3-nitropyridine | 10 mmole, 1.9 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | potassium carbonate | 12 mmole, 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylamine tetrahydrofuran | 12 mmole, 2M, 6ml | CNC.O1CCCC1
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-chloro-2-dimethylamino-3-nitro pyridine | 1.05 g | ClC1=CC=C(C(=N1)N(C)C)[N+](=O)[O-] | C7H8ClN3O2
